US09085570B2
A solution of 4-[5-methyl-4-[(piperidine-4-sulfonyl)methyl]-1,3-oxazol-2-yl]-N-[2-(pyridin-3-yl)ethyl]benzamide (322 mg, 0.69 mmol, 1.00 equiv) and paraformaldehyde (0.21 g, 10.00 equiv) in formic acid (15 mL) was stirred overnight at 110° C. The resulting mixture was concentrated under vacuum and the crude product (320 mg) was purified by Prep-HPLC with the following conditions (1#-Pre-HPLC-001(SHIMADZU)): Column, SunFire Prep C18, 19*150 mm Sum; mobile phase, CH3CN/H2O (5% up to 60% in 12 min, up to 100% in 1 min, down to 5% in 1 min); Detector, UV 254 nm, to give 36.5 mg (11%) of 4-[5-methyl-4-[(1-methylpiperidine-4-sulfonyl)methyl]-1,3-oxazol-2-yl]-N-[2-(pyridin-3-yl)ethyl]benzamide as a white solid. LC-MS: (ES, m/z): 483 [M-PH]+, 242. 1HNMR (400 MHz, CD3OD, ppm): δ 8.47 (s, 1H), 8.42-8.40 (s, 1H), 8.08-8.06 (d, 2H), 7.90-7.88 (d, 2H), 7.81-7.79 (d, 1H), 7.42-7.39 (m, 1H), 4.41 (s, 2H), 3.69-3.66 (t, 2H), 3.21-3.06 (m, 1H), 3.06-2.99 (m, 4H), 2.50 (s, 3H), 2.30 (s, 3H), 2.26-2.23 (m, 2H), 2.12-2.06 (m, 2H), 1.95-1.87 (m, 2H).

reactant | 4-[5-methyl-4-[(piperidine-4-sulfonyl)methyl]-1,3-oxazol-2-yl]-N-[2-(pyridin-3-yl)ethyl]benzamide | 0.69 mmol, 322 mg, 1.00 equiv | CC1=C(N=C(O1)C1=CC=C(C(=O)NCCC=2C=NC=CC2)C=C1)CS(=O)(=O)C1CCNCC1 | C24H28N4O4S
reactant | paraformaldehyde | 0.21 g, 10.00 equiv | C=O | CH2O
solvent | formic acid | 15 mL | C(=O)O | CH2O2
product | 4-[5-methyl-4-[(1-methylpiperidine-4-sulfonyl)methyl]-1,3-oxazol-2-yl]-N-[2-(pyridin-3-yl)ethyl]benzamide | 36.5 mg, 11% | CC1=C(N=C(O1)C1=CC=C(C(=O)NCCC=2C=NC=CC2)C=C1)CS(=O)(=O)C1CCN(CC1)C | C25H30N4O4S
